US07238808B2
2,4-Difluoro-5-[7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.10) (178 mg, 0.5 mmol) and commercially available 5-bromo-2,4-difluoro-benzenesulfonamide (136 mg, 0.5 mmol) according to general procedure II. Obtained as a yellow solid (138 mg, 51%). MS (ISN) 545.1 [(M−H)−]; mp 264° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 178 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=CC=C2)C(F)(F)F | C16H7F6N3
reactant | 5-bromo-2,4-difluoro-benzenesulfonamide | 0.5 mmol, 136 mg | BrC=1C(=CC(=C(C1)S(=O)(=O)N)F)F | C6H4BrF2NO2S
product | 2,4-Difluoro-5-[7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | FC1=C(C=C(C(=C1)F)C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=CC=C2)C(F)(F)F)S(=O)(=O)N | C22H10F8N4O2S
